US04506079
To a solution of 4'-hydroxymethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]-dioxolane (100 parts) in dichloromethane (2000 parts) is added a solution of p-toluenesulfonyl chloride (1.1 molar equivalent) and pyridine (1.2 molar equivalents) in dichloromethane (500 parts), and the mixture is kept at room temperature for 10 hours. The mixture is evaporated, and the residue is dissolved in ethyl acetate, washed with water, dried and evaporated to give 4'-p-toluenesulfonyloxymethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]dioxolane in 87% yield. The physical constants are given in Table I, No. 18.

reactant | 4'-hydroxymethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]-dioxolane | OCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C18H20BrNO5S
reactant | p-toluenesulfonyl chloride | 1.1 molar | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 1.2 molar | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4'-p-toluenesulfonyloxymethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]dioxolane | 87% yield | C1(=CC=C(C=C1)S(=O)(=O)OCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C)C | C25H26BrNO7S2
